US04225609
Preparation of 4-{3-[3-[2-(1-Hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoic Acid Hydrazide
A solution of methyl 4-{3-[3-[2-(1-hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoate (4.1 g., 0.01 mole) and hydrazine hydrate (2.5 g., 0.05 mole) in methanol (25 ml.) is stored at 25° C. for 48 hours. The solvent is then removed by distillation at reduced pressure. The residue is treated with water and enough 2 N hydrochloric acid to give a neutral mixture. The title compound is isolated by extraction into dichloromethane and subsequent drying and evaporation of the extract.

reactant | methyl 4-{3-[3-[2-(1-hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoate | 0.01 mole, 4.1 g | OC1(CCCCC1)CCN1C(SCC1=O)CCCC1=CC=C(C(=O)OC)C=C1 | C22H31NO4S
reactant | hydrazine hydrate | 0.05 mole, 2.5 g | O.NN
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 25 ml | CO | CH4O
product | 4-{3-[3-[2-(1-Hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoic Acid Hydrazide | OC1(CCCCC1)CCN1C(SCC1=O)CCCC1=CC=C(C(=O)NN)C=C1 | C21H31N3O3S
